US04898693
The epoxide ring of the 9β,11β-epoxy-6α-fluoro-17α-hydroxy-16α-methyl-4-pregnene-3,20-dione is opened by means of hydrogen fluoride, and 6α,9α-difluoro-11β,17 -dihydroxy-16α-methyl-4-pregnene-3,20-dione is obtained. The conditions under which this reaction step is performed are also conventional (J. Fried et al. Organic Reactions in Steroid Chemistry, van Nostrand Reinhold Co., New York et al., Vol. 1, 1972, 425 ff).

reactant | 9β,11β-epoxy-6α-fluoro-17α-hydroxy-16α-methyl-4-pregnene-3,20-dione | O1[C@]23[C@]4(CCC(C=C4[C@H](C[C@H]2[C@@H]2C[C@H]([C@](C(C)=O)([C@]2(C[C@@H]31)C)O)C)F)=O)C | C22H29FO4
reactant | hydrogen fluoride | F | FH
product | 6α,9α-difluoro-11β,17 -dihydroxy-16α-methyl-4-pregnene-3,20-dione | F[C@H]1C[C@H]2[C@@H]3C[C@H]([C@](C(C)=O)([C@]3(C[C@@H]([C@@]2([C@]2(CCC(C=C12)=O)C)F)O)C)O)C | C22H30F2O4
